US08193347B2
5-(Benzyl) 1-tert-butyl 2-brompentandioate, Compound XIII.
Synthesis of Sodium (5-benzyl 1-tert-butyl 2-(4,7,10-tris(2-tert- butoxy-2-oxoethyl)-1,4,7,10-tetraazacyclododecan-1-yl)pentanedioate bromide, Compound XIV. 1,4,7,10-Tetraazacyclododecane-1,4,7-triacetic acid, tri-t-butyl ester hydrobromide, 10.0 g (0.0168 mole), was stirred with aqueous sodium hydroxide, 0.1N 150 mL, and diethyl ether, 150 mL. When the entire solid had dissolved, the organic phase was collected and the aqueous phase washed with diethyl ether, 3×50 mL. The combined organic extracts were washed with 1×50 mL saturated aqueous sodium chloride, dried with magnesium sulfate, filtered and evaporated, under reduced pressure, to an oil, 8.8g (0.0171 mole as the free base). The oil was dissolved in acetonitrile, 100 mL. To this solution was added sodium bicarbonate, 1.51 g (0.0180 mole). The mixture was warmed to 30° C. A solution of 5-benzyl, 1-tert-butyl 2-bromopentandioate, 8.02 g (0.0180 mole), in acetonitrile, 40 mL, was added dropwise and the mixture was stirred overnight under argon. The resulting mixture was filtered and the filtrate concentrated under reduced pressure to give a clear colorless oil. The oil was dissolved in diethyl ether, 100 mL, with stirring. The product began crystallizing after a few minutes. After stirring for ca. 1 hr, the product was collected by filtration, washed with fresh ether and vacuum dried. NMR analysis revealed the solid, 9.3g, consisted of a mixture of Na-DO3A-tris (tert-butyl ester) bromide and the desired product. The solid was recrystallized twice from minimal ethyl acetate, ca.,100 mL ea., giving very pure product. The yield was 2.7 g, 18% based on starting 5-benzyl, 1-tern-butyl 2-bromopentandioate. Anal. Calc. As the monohydrate % C, 55.25; H, 7.44; N, 6.08; Br, 9.08; Na, 3.68. Found C, 55.32; H, 7.96; N, 6.14; Br, 8.76; Na. 2.52. The NMR is consistent with the structure. Crystal suitable for x-ray analysis were grown from ethyl acetate.

reactant | Sodium | [Na] | Na
reactant | 5-benzyl 1-tert-butyl 2-(4,7,10-tris(2-tert- butoxy-2-oxoethyl)-1,4,7,10-tetraazacyclododecan-1-yl)pentanedioate bromide | [Br-].C(C)(C)(C)OC(CN1CCN(CCN(CCN(CC1)CC(OC(C)(C)C)=O)CC(OC(C)(C)C)=O)C(C(=O)OC(C)(C)C)CCC(=O)OCC1=CC=CC=C1)=O
reactant | 1,4,7,10-Tetraazacyclododecane-1,4,7-triacetic acid, tri-t-butyl ester hydrobromide | Br.N1(CCN(CCN(CCNCC1)CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C)CC(=O)OC(C)(C)C
reactant | sodium hydroxide | [OH-].[Na+]
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-(Benzyl) 1-tert-butyl 2-brompentandioate | BrC(C(=O)OC(C)(C)C)CCC(=O)OCC1=CC=CC=C1 | C16H21BrO4
